US07683185B2
6-Bromohexa-2,4-dienoic acid methyl ester (4a).
A mixture of methyl sorbate (1.26 g, 10 mmol) and N-bromosuccinimide (1.98 g, 11.0 mmol) in chlorobenzene was irradiated with a 250 W sunlamp so as to achieve a state of reflux for 4 hours. The (cooled) mixture was then evaporated under reduced pressure to give a brown oil which was purified by column chromatography (9:1 60-80° C. petroleum ether:diethyl ether) to give the title compound (1.33 g, 65%) as a clear oil.

reactant | methyl sorbate | 10 mmol, 1.26 g | C(\C=C\C=C\C)(=O)OC | C7H10O2
reactant | N-bromosuccinimide | 11.0 mmol, 1.98 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 6-Bromohexa-2,4-dienoic acid methyl ester | 1.33 g, 65% | COC(C=CC=CCBr)=O | C7H9BrO2
